US09403818B2
Preparation of methyl 8-(4-amino-3-fluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(4-amino-3-fluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (200 mg, 0.68 mmol) and 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (195 mg, 0.82 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (191 mg, 76%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.68 mmol, 200 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.82 mmol, 195 mg | FC1=C(N)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C12H17BFNO2
product | methyl 8-(4-amino-3-fluoro-phenyl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 191 mg, 76% | NC1=C(C=C(C=C1)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O)F | C21H19FN2O3
